US07192943B2
To a solution of tert-butyl ((3S)-4-{[5-amino-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-3-hydroxy-4-oxobutyl)carbamate (2.86 g) in N,N-dimethylformamide (30 ml) were added trityl chloride (3.48 g) and triethylamine (3.48 ml), and the mixture was stirred overnight at room temperature. Water was added to the reaction mixture, and the whole mixture was extracted with ethyl acetate. The extract was washed with water and brine and dried over anhydrous magnesium sulfate. Evaporation of the solvent under reduced pressure gave crude crystals, which were washed with ethyl acetate-diisopropyl ether (2:1) and collected by filtration to give tert-butyl ((3S)-3-hydroxy-4-{[1-(2-hydroxyethyl)-5-(tritylamino)-1H-pyrazol-4-yl]amino}-4-oxobutyl)carbamate (3.5 g).

reactant | tert-butyl ((3S)-4-{[5-amino-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-3-hydroxy-4-oxobutyl)carbamate | 2.86 g | NC1=C(C=NN1CCO)NC([C@H](CCNC(OC(C)(C)C)=O)O)=O | C14H25N5O5
reactant | trityl chloride | 3.48 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 3.48 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | tert-butyl ((3S)-3-hydroxy-4-{[1-(2-hydroxyethyl)-5-(tritylamino)-1H-pyrazol-4-yl]amino}-4-oxobutyl)carbamate | 3.5 g | O[C@@H](CCNC(OC(C)(C)C)=O)C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCO | C33H39N5O5
